US04388238
1024 g aniline, 980 g ethyl carbamate and 1060 g ethanol (approximately 96%) were reacted in the apparatus described in Example 1 for 6.0 hours at 200° C. When the apparatus had cooled and the pressure had been reduced, the reaction mixture was removed, filtered and distilled to remove the excess ethanol. The product was then fractionally distilled at 0.4 m bar. 1373 g N-phenyl-carbamic acid ethyl ester (75.5% of the theoretical yield), were collected and crystallized. The product had a melting point of 51° to 52° C.

reactant | aniline | 1024 g | NC1=CC=CC=C1 | C6H7N
reactant | ethyl carbamate | 980 g | C(N)(OCC)=O | C3H7NO2
solvent | ethanol | 1060 g | C(C)O | C2H6O
product | N-phenyl-carbamic acid ethyl ester | 1373 g | C(C)OC(NC1=CC=CC=C1)=O | C9H11NO2
